US06143763
To a solution of N,N-carbonyldiimidazole (139 g) and imidazole (117 g) in dimethylsulfoxide (2 liters) is added with stirring 6-(3-aminopropoxy)carbostyril (200 g) in portions under ice-cooling. The mixture is further stirred at room temperature for one day, and poured into ice-water. The precipitated crystals are collected by filtration, and washed with water. The crystals thus obtained are further washed successively with ethanol and diethyl ether, and dried to give 6-[3-(1-imidazolyl)carbonylaminopropoxy]carbostyril (162 g) as a white powder.

reactant | N,N-carbonyldiimidazole | 139 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | imidazole | 117 g | N1C=NC=C1 | C3H4N2
reactant | 6-(3-aminopropoxy)carbostyril | 200 g | NCCCOC=1C=C2C=CC(NC2=CC1)=O | C12H14N2O2
solvent | dimethylsulfoxide | 2 liters | CS(=O)C | C2H6OS
product | 6-[3-(1-imidazolyl)carbonylaminopropoxy]carbostyril | 162 g | N1(C=NC=C1)C(=O)NCCCOC=1C=C2C=CC(NC2=CC1)=O | C16H16N4O3
